2192-04-30 08:20:00 Physician Resident Progress Note
Chief Complaint: altered mental status, ?laryngeal edema
   24 Hour Events:
   - lightened sedatives HR normalized to 70-80's
   - no cuff leak detected
   - CT neck/chest done prelim with laryngeal edema
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-29**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unobtainable
   Flowsheet Data as of  [**2192-4-30**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 52 (31 - 67) bpm
   BP: 169/81(105) {145/62(83) - 173/91(123)} mmHg
   RR: 19 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 28 Inch
             Total In:
                                                                    120 mL
                                                                     40 mL
   PO:
             TF:
   IVF:
                                                                     55 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    835 mL
   Urine:
                                                                    895 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 458 (458 - 458) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/98.[**Numeric Identifier 500**]/29/3
   Ve: 8.5 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Intubated and sedated
   PEARL
   Regular bradycardic II/VI systolic murmur heart throughout the
   precordium
   L subclavian in place
   Lungs clear bilaterally no rales wheezing or stridor appreciated
   Abd sott obese nontender +bowel sounds
   Extrem warm no edema
   Opens eyes to voice, squeezes hands and wiggles toes to command
   Labs / Radiology
   251 K/uL
   9.5 g/dL
   188 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.5 mEq/L
   23 mg/dL
   112 mEq/L
   147 mEq/L
   29.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
   WBC
   6.8
   7.4
   Hct
   28.3
   29.4
   Plt
   237
   251
   Cr
   0.8
   0.7
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   Other labs: PT / PTT / INR:15.7/30.8/1.4, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:78.2 %, Lymph:17.6 %, Mono:3.7 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   [**4-29**] blood cx NGTD
   [**4-29**] sputum >25 polys no organisms on gram , cx NGTD
   [**4-29**] urine cx NGTD
   [**4-29**] Ct neck and chest PENDING
   Assessment and Plan
   This 59F with h/o alcohol and polysubstance abuse presented to [**Hospital1 3356**] with altered mental status and is transferred to [**Hospital1 1**] due to
   concerns for laryngeal edema and difficulty weaning from sedation.
   .
   * Vent, Laryngeal edema
   - Check cuff leak persists.
   - f/u CT neck
   - Cont hydrocortisone to 100mg [**Hospital1 **] and can wean from there
   - IP for trach
   - Cont PSV
   .
   * Bradycardia
   At least in part due to sedatives, as HR improved to 70-80's when
   propofol drip is weaned down. No evidence of head bleed on OSH CT scan
   worrisome for [**Location (un) 6003**] reflex. EKG is abnormal with precordial TWIs,
   but these have been present at least since [**4-26**] (not present on [**4-23**]
   [**Hospital1 632**] EKG however). Think ACS is unlikely. PE could also produce
   similar EKG findings though would expect a tachycardia rather than a
   bradycardia.  Vagal response also worth considering
 though no report
   of a common trigger such as significant pain, nausea etc. that might be
   contributory.
   - TSH low -> free T4 sent
   - Cardiac enzymes negative
   - Continue monitoring on telemetry, atropine at bedside
   - Restart propofol for sedation at lowest effective dose
   .
   * Altered mental status
   Appears to be improved, following commands.
   Unclear exactly what happened prior to her transfer to the [**Hospital1 632**] ER.
   Broad differential including medication effect eg narcotic overdose,
   CNS bleed ?of falls, renal failure. No history of recent substance use
   or EtoH to suggest intoxication or withdrawal. No evidence of infection
   prior to admission.
   - Attempt to wean sedation as tolerated, following neuro exam
   - Urine and serum tox screen  -> + benzos, opiates
   .
   * dCHF
   Holding off on further diuresis. Holding BB in setting of hypotension.
   .
   * Hypertension
   - Ok to continue amlodipine, can restart ACEI if needed Cr now back to
   reported baseline
   .
   * DM
   Glucose exacerbated by high dose steroid treatment
   - Covering with sliding scale, holding metformin in ICU
   .
   * Hypernatremia
   - Estimated free water deficit ~1.8L previously . Will correct with
   free water boluses, following Na.  Tube feeds will help also.
   .
   * h/o EtoH and substance abuse
   - MVT/thiamine/folate, social work eval when extubated
   .
   * Anemia
   Baseline hct uncertain.
   - Check T+S, transfuse Hb>7, follow CBC daily
   - Guiac stools
   - Check iron panel/b12/folate
   .
   * ?Orbital floor fracture
   - Obtain [**Hospital1 632**] films, review with radiology. Per signout, more
   consistent with an old process.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   Multi Lumen - [**2192-4-29**] 03:49 PM
   Comments: needs central line replaced
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr
   [**First Name (STitle) **]
s note above, including the assessment and plan. I would emphasize
   and add the following points:
   Mrs [**Hospital1 6001**] does not have a cuff leak with only 2 cc of air
   needed for balloon inflation. Her neck CT does show laryngeal edema
   around the ETT cuff. She is easily arousable off sedation with
   improvement in her HR response.
   Exam notable for Tm 99 BP 167/66 HR 30-60 ( NSR) RR of 14 with sats of
   100% on CPAP/ PSV . She has clear lung fields, minimal ankle edema and
   no focal neurological signs. Reflexes are intact and not sluggish.
   Labs notable for WBC 7.4 K, HCT 29.5 , K+ 3.9 , Cr  0.7,  Neck CT
   reviewed as above.
   Agree with plan to Continue steroids, consult IP service for
   tracheostomy and assessment of airway post trach. For now we will
   switch to propafol for sedation and obtain PICC line so as to D/C left
   subclavian line which appears to have migrated upwards into left IJ.
   She is understanding of this procedure but quite tearful when told of
   the need to do this. We will try and establish contact with her
   daughter since consent for this procedure will need to be provided
   either by patient or her proxy.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], MD
   [**Hospital 6014**] Medical Intensive Care
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2192-4-30**] 01:19 PM ------

2192-05-01 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2192-4-30**] 02:14 PM
 SPUTUM CULTURE - At [**2192-4-30**] 02:14 PM
 URINE CULTURE - At [**2192-4-30**] 02:14 PM
 FEVER - 101.1
F - [**2192-4-30**] 01:00 PM
   - FT4 c/w sick euthroid syndrome
   - found HCP/daughter [**Name (NI) 6018**] [**Name (NI) 6019**] ([**Telephone/Fax (1) 6030**]
   - spiked to 101 so cultured and added vanc/levo/clinda for VAP (flagyl
   as has halatosis and concern for anaerobic infection)
   - hope to do trach in am
   Patient unable to provide history: intubated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-4-30**] 08:00 PM
   Vancomycin - [**2192-4-30**] 11:00 PM
   Clindamycin - [**2192-5-1**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-30**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-5-1**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37
C (98.6
   HR: 36 (36 - 77) bpm
   BP: 156/67(88) {110/54(76) - 196/90(107)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                    904 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                    844 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,299 mL
                                                                  1,185 mL
   Urine:
                                                                  3,299 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,395 mL
                                                                   -985 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 235 (235 - 459) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   10.1 g/dL
   166 mg/dL
   0.6 mg/dL
   32 mEq/L
   2.8 mEq/L
   14 mg/dL
   104 mEq/L
   144 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
                             [**2192-4-30**]  06:54 PM
                             [**2192-5-1**]  04:32 AM
   WBC
   6.8
   7.4
   8.7
   8.1
   Hct
   28.3
   29.4
   31.8
   28.9
   Plt
   237
   251
   268
   243
   Cr
   0.8
   0.7
   0.6
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   166
   Other labs: PT / PTT / INR:15.7/30.8/1.4, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:68.3 %, Lymph:27.1 %, Mono:3.6 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Blood cx [**Date range (1) 6031**]: NGTD
   Urine cx [**4-29**]: NGTD
   FINDINGS: In comparison with the study of [**4-29**], the endotracheal tube
   tip is
   about 5 cm above the carina and the nasogastric tube extends well into
   the
   stomach. Left subclavian catheter again extends into the left internal
   jugular vein with the tip at about C4.
   Perihilar and lower lung opacities persist, again more prominent on the
   right,
   especially in the infrahilar region. This could reflect aspiration,
   pulmonary
   infection, or possibly even asymmetric pulmonary edema or hemorrhage.
   Echo:
   The left atrium is moderately dilated. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is low normal
   (LVEF 50%). Right ventricular chamber size and free wall motion are
   normal. The diameters of aorta at the sinus and ascending aortic levels
   are normal. The aortic valve leaflets (3) are mildly thickened. There
   is a minimally increased gradient consistent with minimal aortic valve
   stenosis. No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. Mild (1+) mitral regurgitation is seen. There is
   mild-moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Suboptimal image quality. Mild symmetric left ventricular
   hypertrophy with low normal global systolic function. Mild-moderate
   pulmonary artery systolic hypertension. Minimal aortic valve stenosis.
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 LARYNGEAL EDEMA
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   Assessment and Plan
   This 59F with h/o alcohol and polysubstance abuse presented to [**Hospital1 3356**] with altered mental status and is transferred to [**Hospital1 1**] due to
   concerns for laryngeal edema and difficulty weaning from sedation.
   .
   *Fever: DDx includes VAP given intubation, blood stream infection,
   UTI.  Hemodynamically stable.  No leukocytosis.  Less likely clot or
   medications at this point.
   - Re-send sputum cx
   - f/u blood, urine cx, send stool cx
   - Cont vancomycin
   - On levo, clinda -> ? add aztreonam given PCN allergy and to cover
   pseudomonas
   .
   * Vent, Laryngeal edema
   - Check daily cuff leak. If negative, CT neck relatively unremarkable
   - On hydrocortisone to 100mg [**Hospital1 **] cont until trach and then wean
   - IP following -> discuss regarding trach
   - Cont PSV and daily weaning trials
   .
   * Bradycardia
   At least in part due to sedatives, as HR improved to 70-80's when
   propofol drip is weaned down. No evidence of head bleed on OSH CT scan
   worrisome for [**Location (un) 6003**] reflex. EKG is abnormal with precordial TWIs,
   but these have been present at least since [**4-26**] (not present on [**4-23**]
   [**Hospital1 632**] EKG however). Think ACS is unlikely. PE could also produce
   similar EKG findings though would expect a tachycardia rather than a
   bradycardia.  Vagal response also worth considering
 though no report
   of a common trigger such as significant pain, nausea etc. that might be
   contributory.
   - TFTs c/w sick euthyroid
   - Repeat cardiac enzymes
   - Continue monitoring on telemetry, atropine at bedside
   .
   * Altered mental status
   Appears to be improved, following commands.
   Unclear exactly what happened prior to her transfer to the [**Hospital1 632**] ER.
   Broad differential including medication effect eg narcotic overdose,
   CNS bleed ?of falls, renal failure. No history of recent substance use
   or EtoH to suggest intoxication or withdrawal. No evidence of infection
   prior to admission.
   - Attempt to wean sedation as tolerated, following neuro exam
   - Urine and serum tox screen
   .
   * dCHF
   Holding off on further diuresis. Holding BB in setting of hypotension.
   .
   * Hypertension
   - Ok to continue amlodipine,
   - Cont Captopril 25mg TID and uptitrate as BP tolerates
   .
   * DM
   Glucose exacerbated by high dose steroid treatment
   - Covering with sliding scale, holding metformin in ICU
   .
   * Hypernatremia: Resolved.  Cont to trend
   .
   * h/o EtoH and substance abuse
   - MVT/thiamine/folate, social work eval when extubated
   .
   * Anemia
   Baseline hct uncertain.
   - Check T+S, transfuse Hb>7, follow CBC daily
   - Guiac stools
   - Check iron panel/b12/folate
   .
   * ?Orbital floor fracture
   - Obtain [**Hospital1 632**] films, review with radiology. Per signout, more
   consistent with an old process
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-4-29**] 03:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2192-05-01 11:01:00 Physician Attending Progress Note
Chief Complaint: resp failure from ?laryngeal edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59F with recent change in mental status, brief intubation, followed by
   recurrent resp distress and re-intubation, now new fever:
   24 Hour Events:
 BLOOD CULTURED - At [**2192-4-30**] 02:14 PM
 SPUTUM CULTURE - At [**2192-4-30**] 02:14 PM
 URINE CULTURE - At [**2192-4-30**] 02:14 PM
 FEVER - 101.1
F - [**2192-4-30**] 01:00 PM
   febrile yesterday, cultured and started on abx.
   tfts c/w sick euthyroid.
   seen by IP.
   tte with lvh.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-4-30**] 08:00 PM
   Clindamycin - [**2192-5-1**] 02:00 AM
   Vancomycin - [**2192-5-1**] 08:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-30**] 09:00 PM
   Other medications:
   sqh, lansopr, riss, fa, mvi, thiamine, hydrocort, amlod, prop,
   levoflox, vanco, capto, clinda, ipratr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-5-1**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.1
   HR: 54 (36 - 72) bpm
   BP: 161/77(98) {144/54(76) - 196/90(107)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                    904 mL
                                                                    694 mL
   PO:
             TF:
   IVF:
                                                                    844 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  3,299 mL
                                                                  1,490 mL
   Urine:
                                                                  3,299 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,395 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 235 (235 - 459) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), brady
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   243 K/uL
   166 mg/dL
   0.6 mg/dL
   32 mEq/L
   2.8 mEq/L
   14 mg/dL
   104 mEq/L
   144 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
                             [**2192-4-30**]  06:54 PM
                             [**2192-5-1**]  04:32 AM
   WBC
   6.8
   7.4
   8.7
   8.1
   Hct
   28.3
   29.4
   31.8
   28.9
   Plt
   237
   251
   268
   243
   Cr
   0.8
   0.7
   0.6
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   166
   Other labs: PT / PTT / INR:15.7/30.8/1.4, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:68.3 %, Lymph:27.1 %, Mono:3.6 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: tte - see event.
   Imaging: cxr: no change
   Microbiology: ngtd
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 LARYNGEAL EDEMA
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   59F with htn, dm2, respiratory failure with laryngeal edema, now new
   fever of unclear origin, possible vap:
   resp failure:
   -when consent obtained IP will extubate in OR with trach placement if
   fails extubation. I have discussed this with Legal service and her
   daughter [**Name (NI) 6018**] [**Name (NI) 6019**] ( contact info in CCC). If the patient cannot
   provide consent for the procedure, then her daughter will do so. Dr
   [**Last Name (STitle) **] made aware of these conversations.
   fevers:
   -cont abx for vap vs. line infection
   -change line today
   brady: med induced
   -monitor
   Mental status:
   -improved
   -reassess when extubated
   HTN
   -cont to increase meds
   ICU Care
   Nutrition:
   Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-4-29**] 03:49 PM, will resite to RIJ today
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-05-02 07:48:00 Physician Resident Progress Note
Chief Complaint: Laryngeal edema
   VAP
   24 Hour Events:
 MULTI LUMEN - START [**2192-5-1**] 01:03 PM
 MULTI LUMEN - STOP [**2192-5-1**] 03:00 PM
   .
   - Attempted R subclavian but unable to thread wire; placed RIJ without
   problem
   - Had discussion with legal re: consenting patient vs. daughter for
   procedure -> either would be fine
   - Daughter consented patient for trach [**5-2**]
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-5-1**] 02:00 AM
   Vancomycin - [**2192-5-1**] 07:50 PM
   Levofloxacin - [**2192-5-1**] 08:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2192-5-1**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2192-5-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-5-2**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 57 (38 - 68) bpm
   BP: 157/64(87) {109/56(72) - 165/96(103)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,797 mL
                                                                    191 mL
   PO:
             TF:
   IVF:
                                                                  1,527 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    515 mL
   Urine:
                                                                  2,855 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 278 (278 - 415) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 125
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   10.1 g/dL
   136 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.4 mEq/L
   10 mg/dL
   105 mEq/L
   144 mEq/L
   30.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
                             [**2192-4-30**]  06:54 PM
                             [**2192-5-1**]  04:32 AM
                             [**2192-5-2**]  03:45 AM
   WBC
   6.8
   7.4
   8.7
   8.1
   7.9
   Hct
   28.3
   29.4
   31.8
   28.9
   30.6
   Plt
   237
   251
   268
   243
   246
   Cr
   0.8
   0.7
   0.6
   0.7
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   166
   136
   Other labs: PT / PTT / INR:14.4/33.4/1.3, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:68.3 %, Lymph:27.1 %, Mono:3.6 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: [**5-1**] CXR port:
   SINGLE PORTABLE SEMI-ERECT CHEST RADIOGRAPH: Interval placement of
   right
   internal jugular catheter with tip projecting at the lower SVC. No
   pneumothorax. Left subclavian catheter again malpositioned. ET tube tip
   6.4 cm
   from carina. OG tube tip and sidehole below diaphragm. Left perihilar
   and
   lower lung opacities persist which could reflect aspiration or
   infection.
   IMPRESSION: Interval placement of right internal jugular catheter with
   tip
   projecting at the lower SVC. No pneumothorax.
   Microbiology: [**4-29**], [**4-30**] Blood cx NGTD
   [**4-29**], [**5-1**] MRSA screen NGTD
   [**5-1**] cath tip pending
   Assessment and Plan
   This 59F with h/o alcohol and polysubstance abuse presented to [**Hospital1 3356**] with altered mental status and is transferred to [**Hospital1 1**] due to
   concerns for laryngeal edema and difficulty weaning from sedation.
   .
   *Fever: DDx includes VAP given intubation, blood stream infection,
   UTI.  Concerned for possible line infection (subclavian placed at OSH).
   Hemodynamically stable.  No leukocytosis.  Less likely clot or
   medications at this point.
   - Re-send sputum cx
   - f/u blood, urine cx, send stool cx
   - Continue vanc/levo/clinda. Consider broadening to aztreonam (pcn
   allergy)
   - Pull central line
   .
   * Vent, Laryngeal edema
   No leak on repeated cuff leak testing
   CT neck without process extrinsic to airway (eg goiter or
   - On hydrocortisone to 100mg [**Hospital1 **] cont until trach and then wean
   - IP to extubate in OR today, if needs reintubation will place
   tracheostomy.
   - Cont PSV
   .
   * Bradycardia
   At least in part due to sedatives, as HR improved to 70-80's when
   propofol drip is weaned down. No evidence of head bleed on OSH CT scan
   worrisome for [**Location (un) 6003**] reflex. EKG is abnormal with precordial TWIs,
   but these have been present at least since [**4-26**] (not present on [**4-23**]
   [**Hospital1 632**] EKG however). Think ACS is unlikely. PE could also produce
   similar EKG findings though would expect a tachycardia rather than a
   bradycardia.  Vagal response also worth considering
 though no report
   of a common trigger such as significant pain, nausea etc. that might be
   contributory.
   - TFTs c/w sick euthyroid
   - Repeat cardiac enzymes
   - Continue monitoring on telemetry, atropine at bedside
   .
   * Altered mental status
   Appears to be improved, following commands. Will reassess post
   extubation.
   Unclear exactly what happened prior to her transfer to the [**Hospital1 632**] ER.
   Broad differential including medication effect eg narcotic overdose,
   CNS bleed ?of falls, renal failure. No history of recent substance use
   or EtoH to suggest intoxication or withdrawal. No evidence of infection
   prior to admission.
   - Attempt to wean sedation as tolerated, following neuro exam
   - Urine and serum tox screen
   .
   * dCHF
   Holding off on further diuresis. Holding BB in setting of hypotension.
   .
   * Hypertension
   - Ok to continue amlodipine
   - Increase captopril 37.5 tid
   .
   * DM
   Glucose exacerbated by high dose steroid treatment
   - Covering with sliding scale, holding metformin in ICU
   .
   * Hypernatremia: Resolved.  Cont to trend
   .
   * h/o EtoH and substance abuse
   - MVT/thiamine/folate, social work eval when extubated
   .
   * Anemia
   Baseline hct uncertain.
   - Check T+S, transfuse Hb>7, follow CBC daily
   - Guiac stools
   - Check iron panel/b12/folate
   .
   * ?Orbital floor fracture
   - Obtain [**Hospital1 632**] films, review with radiology. Per signout, more
   consistent with an old process
   ICU Care
   Nutrition: Replete with fiber Full strength; Additives: Beneprotein, 15
   gm/day
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-5-1**] 01:03 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2192-05-02 10:28:00 Physician Attending Progress Note
Chief Complaint: laryng edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59F with respiratory failure after failed extubation, laryngeal edema
   that is slow to resolve:
   24 Hour Events:
 MULTI LUMEN - START [**2192-5-1**] 01:03 PM
 MULTI LUMEN - STOP [**2192-5-1**] 03:00 PM
   line placed.
   consent obtained from daughter for trach.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-5-1**] 02:00 AM
   Levofloxacin - [**2192-5-1**] 08:00 PM
   Vancomycin - [**2192-5-2**] 08:20 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2192-5-1**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2192-5-2**] 08:20 AM
   Other medications:
   sqh, lansopr, fa, mvi, thaimine, hctz, amlod, prop, levoflox, vanco,
   capto, clinda,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-5-2**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 57 (38 - 68) bpm
   BP: 147/63(84) {109/56(72) - 165/96(103)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,797 mL
                                                                    455 mL
   PO:
             TF:
   IVF:
                                                                  1,527 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    595 mL
   Urine:
                                                                  2,855 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (278 - 415) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), brady
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   246 K/uL
   136 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.4 mEq/L
   10 mg/dL
   105 mEq/L
   144 mEq/L
   30.6 %
   7.9 K/uL
         [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
                             [**2192-4-30**]  06:54 PM
                             [**2192-5-1**]  04:32 AM
                             [**2192-5-2**]  03:45 AM
   WBC
   6.8
   7.4
   8.7
   8.1
   7.9
   Hct
   28.3
   29.4
   31.8
   28.9
   30.6
   Plt
   237
   251
   268
   243
   246
   Cr
   0.8
   0.7
   0.6
   0.7
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   166
   136
   Other labs: PT / PTT / INR:14.4/33.4/1.3, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:68.3 %, Lymph:27.1 %, Mono:3.6 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: cxr: tube high, rij ok, left effusion vs. infiltrate
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 LARYNGEAL EDEMA
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   61F with laryngeal edema that is slow to resolve, awaiting extubation
   in the OR and possible trach:
   resp failure: laryngeal edema
   -awaiting trach today, possible extubation in OR under visualization
   fever: improved after line changed and abx
   -fu culure from line
   -cont abx for 7 days; may narrow in the next few days
   brady: from meds, good bp
   -monitor
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-5-1**] 01:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: daughter updated regarding condition , ICU consent
   signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-05-03 07:46:00 Physician Resident Progress Note
Chief Complaint: altered mental status, laryngeal edema
   24 Hour Events:
   - Trach placed uneventfully
   - Resumed Abilify and prozac
   - DCd steroids (not helpful per d/w IP)
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-5-2**] 08:00 PM
   Levofloxacin - [**2192-5-2**] 08:00 PM
   Clindamycin - [**2192-5-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-5-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-5-2**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   C/o left tooth pain. Angry, swearing.
   Flowsheet Data as of  [**2192-5-3**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 62 (46 - 77) bpm
   BP: 140/93(103) {116/45(61) - 156/93(103)} mmHg
   RR: 28 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,226 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                  1,226 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    215 mL
   Urine:
                                                                  1,310 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 321 (321 - 321) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.5 L/min
   Physical Examination
   Awake and watching TV, appears comfortable
   Trach in place, RIJ
   Regular S1 S 2no m/r/g
   Lungs clear bilaterally no rales or wheezing
   Abd sott obese nontender +bowel sounds
   Extrem warm no edema
   Labs / Radiology
   226 K/uL
   9.9 g/dL
   117 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   9 mg/dL
   109 mEq/L
   146 mEq/L
   29.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
                             [**2192-4-30**]  06:54 PM
                             [**2192-5-1**]  04:32 AM
                             [**2192-5-2**]  03:45 AM
                             [**2192-5-3**]  03:41 AM
   WBC
   6.8
   7.4
   8.7
   8.1
   7.9
   7.4
   Hct
   28.3
   29.4
   31.8
   28.9
   30.6
   29.6
   Plt
   237
   251
   268
   243
   246
   226
   Cr
   0.8
   0.7
   0.6
   0.7
   0.6
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   166
   136
   117
   Other labs: PT / PTT / INR:14.4/33.4/1.3, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:68.3 %, Lymph:27.1 %, Mono:3.6 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Micro
   All  negative/pending
   Assessment and Plan
   This 59F with h/o alcohol and polysubstance abuse presented to [**Hospital1 3356**] with altered mental status and is transferred to [**Hospital1 1**] due to
   concerns for laryngeal edema and difficulty weaning from sedation.
   .
   * Laryngeal edema
   s/p trach placement
   per IP, aggressive acid suppression with [**Hospital1 **] PPI, head of bed elevated
   no role for steroids
   follow up in [**Hospital **] clinic 4-6 weeks
   - clarify with IP regarding her ability to eat
   .
   *Fever:
   Continued to have low grade temps last night, but otherwise clinically
   stable. Source remains obscure, has been treated for pna.
   DDx includes VAP given intubation, line infection, UTI.
   Hemodynamically stable.  No leukocytosis.  Less likely clot or
   medications at this point.
   - f/u pending cultures
   - Continue levo/clinda
   - Will D/C vancomycin
   .
   * Bradycardia
   Improved now that she is off sedation
   [**Month (only) 11**] have underlying conduction disease. TFTs c/w sick euthyroid.
   .
   * Altered mental status
   Appears to be improved, following commands.
   Unclear exactly what happened prior to her transfer to the [**Hospital1 632**] ER.
   Broad differential including medication effect eg narcotic overdose,
   CNS bleed ?of falls, renal failure. No history of recent substance use
   or EtoH to suggest intoxication or withdrawal. No evidence of infection
   prior to admission.
   - Continue to follow, attempt further history when patient able to
   discuss
   .
   * dCHF
   Holding off on further diuresis. Holding BB in setting of hypotension.
   .
   * Hypertension
   - Ok to continue amlodipine
   - Increase captopril as needed
   .
   * DM
   Glucose exacerbated by high dose steroid treatment
   - Covering with sliding scale, holding metformin in ICU
   .
   * h/o EtoH and substance abuse
   - thiamine/folate, social work eval when extubated
   .
   * Anemia
   Baseline hct uncertain. Hct stable on serial checks. B12 and folate
   WNL, iron studies c/w chronic disease
   - Check T+S, transfuse Hb>7, follow CBC daily
   - Guiac stools
   .
   * ?Orbital floor fracture
   - Obtain [**Hospital1 632**] films, review with radiology. Per signout, more
   consistent with an old process
   ICU Care
   Nutrition: discuss timing of resuming oral feeds with IP
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   Multi Lumen - [**2192-5-1**] 01:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2192-05-03 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2192-5-2**] 11:39 AM
 OR RECEIVED - At [**2192-5-2**] 01:00 PM
   s/p tracheostomy placement in OR. See OR report for details.
 INVASIVE VENTILATION - STOP [**2192-5-2**] 01:00 PM
 NASAL SWAB - At [**2192-5-3**] 04:09 AM
   MRSA screen
   > Tracheostomy [**5-2**], uncomplicated on TM
   > low grade temps overnight
   History obtained from Patient, HO
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-5-2**] 08:00 PM
   Levofloxacin - [**2192-5-2**] 08:00 PM
   Clindamycin - [**2192-5-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-5-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-5-2**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-5-3**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 63 (56 - 77) bpm
   BP: 121/54(69) {116/45(61) - 150/93(103)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,226 mL
                                                                    220 mL
   PO:
             TF:
   IVF:
                                                                  1,226 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    355 mL
   Urine:
                                                                  1,310 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   226 K/uL
   117 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   9 mg/dL
   109 mEq/L
   146 mEq/L
   29.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-4-29**]  04:30 PM
                             [**2192-4-29**]  04:31 PM
                             [**2192-4-30**]  01:16 AM
                             [**2192-4-30**]  06:54 PM
                             [**2192-5-1**]  04:32 AM
                             [**2192-5-2**]  03:45 AM
                             [**2192-5-3**]  03:41 AM
   WBC
   6.8
   7.4
   8.7
   8.1
   7.9
   7.4
   Hct
   28.3
   29.4
   31.8
   28.9
   30.6
   29.6
   Plt
   237
   251
   268
   243
   246
   226
   Cr
   0.8
   0.7
   0.6
   0.7
   0.6
   TropT
   <0.01
   TCO2
   31
   Glucose
   193
   199
   188
   166
   136
   117
   Other labs: PT / PTT / INR:14.4/33.4/1.3, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:18/13, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:68.3 %, Lymph:27.1 %, Mono:3.6 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Microbiology: [**5-3**] blood and urine pending
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 LARYNGEAL EDEMA
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   59 yo female with multiple medical problems recently intubated for
   altered MS (traumatic) s/p extubation and re-intubation with cord edema
   Laryngeal edema: s/p tracheostomy. IP rec'd stopping steroids (now off,
   received 5 day course). Doing well on trach mask.
   - Cont PPI, HOB elevation.
   - Cont TM, wean FiO2
   - OK to trial PO per IP
   - SLP consult
   Agitation: carries of diagnosis of Bipolar.
   -          need to restart her out patient regimen
   -          will need psychiatry input if she resists care re:
   competency
   HTN/Heart failure: restart home medications
   Fevers / ? Aspiration PNA / ? line infection: fevers resolved
   - Levofloxacin, Vanco and Clinda. Stop Levo and clinda today (as no
   indication to cont)
   - Possibly a line infection as the source
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-5-1**] 01:03 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes